* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1493.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 9
R1 N004 N003 4.99K
R2 N003 IN 10K
V3 IN 0 SINE(0 1 100 .3 0 0 75)
R3 N005 N004 15K
R4 N002 N001 10K
R5 N001 0 6.49K
R6 OUT N002 10K
C1 OUT 0 10µ
X§U1 0 N003 +V 0 N005 LT1492
X§U2 N004 N001 +V 0 N002 LT1492
.tran 2
* Precision AC to DC Converter(Full Wave Rectifier and Filter)
.lib LTC.lib
.backanno
.end
